US06281227B1
C. 5-Pyridin-4-yl-thiophene-2-sulfonic acid-[1-(1-chloro-isoquinolin-7-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-amide
5-Pyridin-4-yl-thiophene-2-sulfonyl chloride is added to a solution of 3-(S)-amino-1-(1-chloro-isoquinolin-7-ylmethyl)-pyrrolidin-2-one hydrochloride (0.12 g, 0.38 mmol) in pyridine (2 mL). The resulting mixture is stirred overnight then concentrated to dryness. The residue is diluted with methylene chloride and washed with saturated NaHCO3 solution and brine. The organic layer is dried over MgSO4, filtered and concentrated to give 105 mg of a crude solid. The crude product is purified by column chromatography eluting with 5% MeOH/CH2Cl2 to afford the title product (0.026 g, 0.052 mmol) as a white solid.

reactant | 5-Pyridin-4-yl-thiophene-2-sulfonyl chloride | N1=CC=C(C=C1)C1=CC=C(S1)S(=O)(=O)Cl | C9H6ClNO2S2
reactant | 3-(S)-amino-1-(1-chloro-isoquinolin-7-ylmethyl)-pyrrolidin-2-one hydrochloride | 0.38 mmol, 0.12 g | Cl.N[C@@H]1C(N(CC1)CC1=CC=C2C=CN=C(C2=C1)Cl)=O
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 5-Pyridin-4-yl-thiophene-2-sulfonic acid-[1-(1-chloro-isoquinolin-7-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-amide | 0.052 mmol, 0.026 g | ClC1=NC=CC2=CC=C(C=C12)CN1C([C@H](CC1)NS(=O)(=O)C=1SC(=CC1)C1=CC=NC=C1)=O | C23H19ClN4O3S2
